US20010007867A1
7-Chloro-5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
A suspension of 5-methyl-3-(2,4,6-trimethyl-phenyl)4H-pyrazolo[1,5-a]pyrimidin-7-one (590 mg, 2.2 mmol) in 9 ml of POCl3 was treated with diethylaniline (0.7 ml) and the resulting mixture was stirred at reflux for 15 hours. The reaction mixture was concentrated to dryness. The residue was treated with ice water and stirred for 20 min, then extracted with chloroform. The organic layer was dried and concentrated to yield an orange oil which crystallized upon standing. The material was purified through silica gel column chromatography using chloroform as eluent to give 590 mg (94%) of the title compound as a yellow solid; 1H NMR (CDCl3) δ 8.08(s,1 H), 6.98(s,2H), 6.86(s,1H), 2.56(s,3H), 2.33(s,3H), 2.09(s,6H) ppm.

reactant | 5-methyl-3-(2,4,6-trimethyl-phenyl)4H-pyrazolo[1,5-a]pyrimidin-7-one | 2.2 mmol, 590 mg | CC=1NC=2N(C(C1)=O)N=CC2C2=C(C=C(C=C2C)C)C | C16H17N3O
reactant | diethylaniline | 0.7 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | POCl3 | 9 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 590 mg, 94% | ClC1=CC(=NC=2N1N=CC2C2=C(C=C(C=C2C)C)C)C | C16H16ClN3
